US07601856B2
N-(6,7,8,9,10,11-HEXAHYDROBENZO[B]CYCLOOCTA[D]FURAN-2-YL)-2,6-DIMETHOXYBENZAMIDE
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.15 g, 0.69 mmol), 2,6-dimethoxybenzoyl chloride (0.15 mL, 0.77 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (12 mL) N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-2,6-dimethoxybenzamide (0.15 g). MS (ESI) m/z 380 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.69 mmol, 0.15 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | 2,6-dimethoxybenzoyl chloride | 0.77 mmol, 0.15 mL | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | dichloroethane | 12 mL, 0.15 g | ClC(C)Cl | C2H4Cl2
product | N-(6,7,8,9,10,11-HEXAHYDROBENZO[B]CYCLOOCTA[D]FURAN-2-YL)-2,6-DIMETHOXYBENZAMIDE | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(C3=C(C=CC=C3OC)OC)=O | C23H25NO4
